US06133258
The reaction procedure of Example 11 was followed except that 900 mg (2.36 mmol) of 2-(4-iodoanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one, 23 mg of lithium hydride and 402 mg of methyl iodide were used. The resulting residue was then purified through silica gel column chromatography (eluant: chloroform) to obtain 580 mg of 2-[(4-iodophenyl)imino]-2,3-dihydro-3-methyl-4H-pyrido[3,2-e]-1,3-thiazin-4-one (62%, recrystallized from a mixture of ether and hexane).

reactant | 2-(4-iodoanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 2.36 mmol, 900 mg | IC1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1 | C13H8IN3OS
reactant | lithium hydride | 23 mg | [H-].[Li+]
reactant | methyl iodide | 402 mg | CI | CH3I
product | 2-[(4-iodophenyl)imino]-2,3-dihydro-3-methyl-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 580 mg | IC1=CC=C(C=C1)N=C1SC2=C(C(N1C)=O)C=CC=N2 | C14H10IN3OS
